US09255089B2
Magnesium metal (39.0 mg, 2.0 mmol) and iodine (one crystal) was taken up in dry diethyl ether (1.2 mL) and (2-bromoethyl)cyclopropane (200 mg, 1.3 mmol) was added dropwise until iodine color faded. The remainder was then added dropwise over 15 minutes to maintain a gentle reflux and then cooled to 0° C. (2-cyclopropylethyl)magnesium bromide (1.1 M, 0.38 mL, 0.41 mmol) was added to a cooled (0° C.) solution of (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) in dry THF (1.0 mL) under argon and allowed to stir for 10 minutes. The reaction was quenched with water, extracted three times with EtOAc, and combined organic layers were concentrated and purified by reverse-phase HPLC to give 3-cyclopropyl-1-(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)-1-(pyridin-2-yl)propan-1-ol intermediate. The intermediate was taken up in EtOH (1.5 mL) and 0.2 mL concentrated HCl and heated to 65° C. for 2 hours and concentrated to afford the desired product as a white powder.

reactant | Magnesium | 2.0 mmol, 39.0 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | (2-bromoethyl)cyclopropane | 1.3 mmol, 200 mg | BrCCC1CC1 | C5H9Br
reactant | (2-cyclopropylethyl)magnesium bromide | 0.41 mmol, 1.1 M, 0.38 mL | C1(CC1)CC[Mg]Br
reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
solvent | diethyl ether | 1.2 mL | C(C)OCC | C4H10O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-cyclopropyl-1-(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)-1-(pyridin-2-yl)propan-1-ol | C1(CC1)CCC(O)(C1=NC=CC=C1)C1=CC(=CC=2NC(=NC21)OCC)C=2C(=NOC2C)C | C25H28N4O3
